US07342031B2
To 60 ml of water, 10.3 g of ehtylisothiourea hydrobromide, 10.4 g of perchloromethylmercaptan were added, followed the solution of 9.39 g of sodium hydroxide dissolved to 60 ml of water was added dropwise slowly at about 0° C. Then, t-butylmethylether was added to the reaction mixture, and extracted. The organic layer was dried by anhydrous sodium salfate, and concentrated. The residue obtaind was subjected to silica gel column chromatography (hexanne:ethylacetate=30:1) to obtain 2.54 g of 3-ethylthio-5-chloro-1,2,4-thiadiazole.

reactant | water | 60 ml | O | H2O
reactant | ehtylisothiourea hydrobromide | 10.3 g | Br.C(C)NC(S)=N
reactant | perchloromethylmercaptan | 10.4 g | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 9.39 g | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
reactant | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | 3-ethylthio-5-chloro-1,2,4-thiadiazole | 2.54 g | C(C)SC1=NSC(=N1)Cl | C4H5ClN2S2
